US07678785B2
(E)-3-Phenylacrylic acid 4-[(E)-(3-phenylacryloyl)amino]phenyl ester
Cinnamoyl chloride (16.79 g, 100.8 mmoL) was added to a solution of 4-aminophenol (5.00 g, 45.8 mmol) and DMAP (0.56 g, 4.58 mmol) in pyridine (5mL). The reaction mixture was stirred at room temperature for 30 min whereupon a solid mass formed. Dichloromethane (50mL) was added and the resultant suspension was stirred at room temperature for 2 h. The reaction mixture was poured into 10% hydrochloric acid/dichloromethane and shaken. The precipitated white solid was removed by filtration, washed with dichloromethane, 10% hydrochloric acid and then dichloromethane again. The organic layer of the filtrate was separated and washed with 10% hydrochloric acid (×2) and brine, dried (Na2SO4) and evaporated to give the title compound (15.1 g, 89%). 1HNMR (300 MHz) (CDCl3) δ 6.55 (1H, d, J=16 Hz), 6.64 (1H, d, J=16 Hz), 7.18 (2H, d), 7.35-7.45 (6H, m), 7.58 (4H, m), 7.67 (2H, m), 7.78 (1H, d, J=16) and 7.88 (1H, d, J=16).

reactant | Cinnamoyl chloride | 16.79 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 4-aminophenol | 45.8 mmol, 5.00 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | Dichloromethane | 50mL | ClCCl | CH2Cl2
reactant | hydrochloric acid dichloromethane | Cl.ClCCl
catalyst | DMAP | 4.58 mmol, 0.56 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5mL | N1=CC=CC=C1 | C5H5N
product | (E)-3-Phenylacrylic acid 4-[(E)-(3-phenylacryloyl)amino]phenyl ester | 15.1 g, 89% | C1(=CC=CC=C1)/C=C/C(=O)NC1=CC=C(C=C1)OC(\C=C\C1=CC=CC=C1)=O | C24H19NO3
